US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide from Example No. 40 (800 mg), 3-butyn-2-ol (0.20 mL), PdCl2 (PPh3)2 (32.3 mg), and 1.16 mL Et3N in 4.64 mL anhydrous DMF is heated at 90° C. for 1 hr. The reaction mixture is cooled to room temperature and partitioned between EtOAc and H2O. The aqueous layer is washed with EtOAc (3×). The combined organic layers are dried over Na2SO4 and condensed to obtain a red-brown residue. The residue is chromatographed eluting with 3% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 139.2 mg (20%) of the title compound as a brown solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2O2
reactant | 3-butyn-2-ol | 0.20 mL | CC(C#C)O | C4H6O
reactant | Et3N | 1.16 mL | CCN(CC)CC | C6H15N
solvent | DMF | 4.64 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide | 139.2 mg, 20% | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CC(C)O)C=C1 | C21H17ClN2O3
